US07432270B2
(S)-2-[(6,7-Difluoro-3-methylquinoxalin-2-ylamino)methyl]-piperidine-1-carboxylic acid tert buty ester
(S)-2-Aminomethyl-piperidine-1-carboxylic acid tert-butyl ester (1.14 g), and 2-chloro-6,7-difluoro-3-methylquinoxaline Teng et al PCT Int. Appl (2000), WO00/42026A1 20000720 (1.14 g) were dissolved in DMF (2 ml) and heated to 90° C. for 3 days under an atmosphere of argon. After cooling, the reaction solution was partitioned between ethyl acetate and water. The organic layer was washed with water, saturated brine, dried and evaporated. The residue was chromatographed over silica gel, eluting with a gradient of 10 to 50% ethyl acetate in hexane. The title compound was obtained as a pink foam (0.524 g), MH+ 393.

reactant | (S)-2-Aminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 1.14 g | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CN | C11H22N2O2
reactant | 2-chloro-6,7-difluoro-3-methylquinoxaline | ClC1=NC2=CC(=C(C=C2N=C1C)F)F | C9H5ClF2N2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (S)-2-[(6,7-Difluoro-3-methylquinoxalin-2-ylamino)methyl]-piperidine-1-carboxylic acid tert buty ester | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CNC1=NC2=CC(=C(C=C2N=C1C)F)F | C20H26F2N4O2
